* BFS17W SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT323 DIE MODEL : BFW92
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFS17W 1 2 3
Q1 6 5 7 7 BFW92
* SOT323 parasitic model
               Lb  4 5 .6n
               Le  7 8 .6n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .34n
              Ccb  4 6 100f
              Cbe  4 8 2f
*
* PHILIPS SEMICONDUCTORS                                        Version:    3.0
* Filename:    BFW92.PRM                                        Date:March 1993
*
.MODEL  BFW92   NPN
+(
+              IS = 2.26749E-016
+              BF = 4.27829E+001
+              NF = 9.98081E-001
+             VAF = 3.09206E+001
+             IKF = 2.80682E+000
+             ISE = 1.25812E-011
+              NE = 2.69052E+000
+              BR = 1.50821E+001
+              NR = 9.89755E-001
+             VAR = 1.31800E+001
+             IKR = 3.83070E-001
+             ISC = 6.22829E-016
+              NC = 1.08818E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
+             RBM = 1.00000E+001
+              RE = 3.00000E-001
+              RC = 2.76000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 8.93473E-013
+             VJE = 6.00000E-001
+             MJE = 2.81933E-001
+              TF = 1.03700E-010
+             XTF = 8.59092E+001
+             VTF = 4.16619E-002
+             ITF = 9.82771E-002
+             PTF = -1.0000E+001
+             CJC = 1.08829E-012
+             VJC = 4.07523E-001
+)
.ENDS